US05859011
B. 3-Dimethylaminopropylpiperazine
A mixture of 4-benzyloxycarbonyl-3-dimethylaminopropylpiperazine (2.21 g, 7.2 mmol), 5% Pd/C (0.36 g) in methanol (20 ml) was stirred under hydrogen atmosphere at room temperature for 38 h. After removal of catalyst by Celite filtration, the filtrate was concentrated to afford 1.20 g (97.6%) of orange color viscous oil.

reactant | 4-benzyloxycarbonyl-3-dimethylaminopropylpiperazine | 7.2 mmol, 2.21 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CCCN(C)C | C17H27N3O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.36 g | [Pd] | Pd
product | 3-Dimethylaminopropylpiperazine | 1.20 g, 97.6% | CN(CCCN1CCNCC1)C | C9H21N3
